US09034929B2
Catalytic hydrogenation of the 2-nitro-4-ethyl-3-octanol to the 2-amino-4-ethyl-3-octanol amino alcohol. A sample of 2-amino-4-ethyl-3-octanol was synthesized by the reduction of the 2-nitro-4-ethyl-3-octanol by a Parr Autoclave unit. The stainless steel, 2 liter autoclave was loaded with Grace 3201 Raney Nickel (RaNi, 70 g wet, 35 g dry, 10 wt %) and methanol (MeOH, 300 g). The autoclave was sealed, assembled, purged with nitrogen then hydrogen, pressurized with hydrogen (750 psig), stirred at 600 RPM, and warmed to 40° C. The nitro-alcohol (362 g) was diluted with methanol MeOH, 380 ml) and pumped into the autoclave (5 ml/min). After 2 h the addition was complete and after another 15 min the reaction was judged complete as no hydrogen uptake was observed. The autoclave was cooled, stirring stopped, vented, and purged with nitrogen. The autoclave was disassembled and the contents were vacuum filtered to remove the RaNi catalyst. This resulted in the isolation of a light yellow liquid (84 area % pure) that was concentrated in vacuo (55° C./full vacuum) before product was taken overhead (122° C./15 mm) using a vacuum jacketed 18″ vigreux column/head assembly. This resulted in the isolation of product as a clear, colorless, solution (182 g, 96.9 area %, 44% overall yield).

reactant | 2-nitro-4-ethyl-3-octanol | [N+](=O)([O-])C(C)C(C(CCCC)CC)O | C10H21NO3
reactant | 2-amino-4-ethyl-3-octanol amino alcohol | NO.NC(C)C(C(CCCC)CC)O
catalyst | Raney Nickel | 70 g | [Ni] | Ni
solvent | methanol | 300 g | CO | CH4O
product | 2-amino-4-ethyl-3-octanol | NC(C)C(C(CCCC)CC)O | C10H23NO
